US08912188B2
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)-1H-pyrazole (536.0 mg, 2.05 mmol) in DME (5 mL) and water (0.5 mL) was added methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (200.0 mg, 0.68 mmol), sodium carbonate (217.0 mg, 2.05 mmol) and Pd(PPh3)4 (39 mg, 0.03 mmol) with stirring for 0.5 h at 90° C. in an oil bath with an inert atmosphere of nitrogen. The reaction mixture was concentrated under vacuum to get a residue, which was purified by a silica gel column with 2%-10% ethyl acetate in petroleum to afford methyl 3-(isopropyl(methyl)amino)-2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)quinoxaline-6-carboxylate as a light yellow solid (80 mg, 30%).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-(trifluoromethyl)-1H-pyrazole | 2.05 mmol, 536.0 mg | CC1(OB(OC1(C)C)C=1C(=NNC1)C(F)(F)F)C | C10H14BF3N2O2
reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.68 mmol, 200.0 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | sodium carbonate | 2.05 mmol, 217.0 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | water | 0.5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 39 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(isopropyl(methyl)amino)-2-(3-(trifluoromethyl)-1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 80 mg, 30% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C(=NNC1)C(F)(F)F)C | C18H18F3N5O2
